US05319069
Preparation of 1,5-bis(4-iodophenoxy-3-oxapentane
A mixture prepared by adding 3.08 g of sodium hydroxide and 40 ml of n-butanol to 15.4 g of 4-iodophenol was refluxed. 2 ml of n-butanol solution of 5.01 g of 1,5-dichloro-3-oxapentane was added dropwise to the above prepared mixture over a period of 5 minutes.

reactant | sodium hydroxide | 3.08 g | [OH-].[Na+]
reactant | 4-iodophenol | 15.4 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 1,5-dichloro-3-oxapentane | 5.01 g | ClCCOCCCl | C4H8Cl2O
solvent | n-butanol | 2 ml | C(CCC)O | C4H10O
solvent | n-butanol | 40 ml | C(CCC)O | C4H10O
product | 4-iodophenoxy-3-oxapentane | IC1=CC=C(OCCOCC)C=C1 | C10H13IO2
